US08536168B2
2-{6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-propane-1,2-diol
To 1-benzyl-4-[4-(5-isopropenyl-pyridin-2-yl)-piperazin-1-yl]-phthalazine (68 mg, 0.158 mmol) is added acetone (1 mL), t-butanol (0.5 mL), and H2O (0.5 mL). To this suspension is then added potassium osmate (VI) dihydrate (536 μg, 1.58 μM), and NMO (21 mg, 0.174 mmol), and the reaction is stirred at room temperature for 3 h. Sodium sulfite (350 mg) is added to the resulting clear orange solution and the mixture is stirred for 1 h. Additional H2O (25 mL) is added, and the organics extracted with EtOAc (3×25 mL), dried over MgSO4, and concentrated. Purification by flash chromatography on silica gel (90:10 CH2Cl2:MeOH) afforded a clear oil which was then triturated with EtOAc to afford the title compound as a white powder (52 mg, 72% yield).

reactant | 1-benzyl-4-[4-(5-isopropenyl-pyridin-2-yl)-piperazin-1-yl]-phthalazine | 0.158 mmol, 68 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=C1)C(=C)C | C27H27N5
reactant | acetone | 1 mL | CC(=O)C | C3H6O
reactant | NMO | 0.174 mmol, 21 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Sodium sulfite | 350 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 25 mL | O | H2O
reactant | H2O | 0.5 mL | O | H2O
catalyst | potassium osmate (VI) dihydrate | 1.58 μM, 536 μg | O.O.[O-][Os](=O)(=O)[O-].[K+].[K+]
solvent | t-butanol | 0.5 mL | C(C)(C)(C)O | C4H10O
product | 2-{6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-propane-1,2-diol | 52 mg, 72% yield | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)C(CO)(C)O | C27H29N5O2
